US08193214B2
4-[3-(5-Chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester
A mixture of 60 mg (0.18 mmol) of 3-(5-chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridine-2-thione and 38 mg (0.21 mmol) of methyl 4-bromobutyrate and 58 mg (0.42 mmol) of potassium carbonate in 2 mL of DMF is stirred at room temperature for 18 h. The mixture is diluted with water and the product is extracted with ethyl acetate. The organic layer is washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel eluted with 1˜5% methanol in dichloromethane to give the desired compound.

reactant | 3-(5-chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridine-2-thione | 0.18 mmol, 60 mg | ClC1=CC2=C(SC=C2CC2C(N=C3N2C=CC=C3)=S)C=C1 | C16H11ClN2S2
reactant | methyl 4-bromobutyrate | 0.21 mmol, 38 mg | BrCCCC(=O)OC | C5H9BrO2
reactant | potassium carbonate | 0.42 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[3-(5-Chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester | COC(CCCSC=1N=C2N(C=CC=C2)C1CC=1C2=C(SC1)C=CC(=C2)Cl)=O | C21H19ClN2O2S2
